US08729079B2
b: Ethyl 2-hydroxy-4-mercapto-6-methylpyrimidine-5-carboxylate
(Z)-ethyl 3-amino-2-(ethoxycarbonylcarbamothioyl)but-2-enoate was dissolved in 30% aqueous triethyl amine and the reaction mixture stirred at 70° C. After 2 hours, the reaction mixture was cooled and neutralized with glacial acetic acid and the aqueous mixture extracted with EtOAc. The organic layer was washed with water, dried over Na2SO4 and concentrated under vacuum to give the desired product. 1H NMR (400 MHz, DMSO-d6): δ 12.54 (s, 1H), 11.85 (s, 1H), 4.21 (q, J=7.6 Hz, 2H), 2.03 (s, 3H), 1.24 (t. J=7.6 Hz, 3H); MS m/z 213.1 (M−1).

reactant | (Z)-ethyl 3-amino-2-(ethoxycarbonylcarbamothioyl)but-2-enoate | N\C(=C(\C(=O)OCC)/C(NC(=O)OCC)=S)\C | C10H16N2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | Ethyl 2-hydroxy-4-mercapto-6-methylpyrimidine-5-carboxylate | OC1=NC(=C(C(=N1)S)C(=O)OCC)C | C8H10N2O3S
